US05464865
By the method of example 48, 1-bromo-4-(2-methoxyethenyl)benzene (2.13 g) is lithiated and reacted with (2-naphthyloxymethyl)oxirane (2.0 g). The reaction mixture is allowed to warm to room temperature and stirred for 48 hr before quenching with saturated ammonium chloride. The product is extracted with ether, and the extract is dried and concentrated to leave 1-(2-hydroxy-3-(2-naphthyloxy)propyl)-4-(2-methoxyethenyl)benzene as a yellow oil (1.93 g). By the methods of example 1, this is converted into the title compound, which is obtained as a colorless solid, mp 175°-178° after recrystallization from hexane-ethyl acetate. This material is racemic at the propyl carbinol carbon, but substitution of a chiral form of the starting oxirane provides the title compound in chiral form.

reactant | 1-bromo-4-(2-methoxyethenyl)benzene | 2.13 g | BrC1=CC=C(C=C1)C=COC | C9H9BrO
reactant | (2-naphthyloxymethyl)oxirane | 2.0 g | C1=C(C=CC2=CC=CC=C12)OCC1OC1 | C13H12O2
product | 1-(2-hydroxy-3-(2-naphthyloxy)propyl)-4-(2-methoxyethenyl)benzene | 1.93 g | OC(CC1=CC=C(C=C1)C=COC)COC1=CC2=CC=CC=C2C=C1 | C22H22O3
